US04059433
A solution of 16.6 g of 5-amino-4-cyano-3-ethoxyisothiazole and 30.7 g of phenyl chloroformate in 100 ml of toluene under nitrogen atmosphere was stirred and heated at 100° for about 16 hours. After this time, thin-layer chromatography indicated that the reaction was 50% complete. An additional 15 ml of phenyl chloroformate was added and heating (100°) continued for an additional 24 hours; at this time thin-layer chromatography indicated 80% reaction. After an additional 6 hours, 90% reaction was indicated. The mixture was allowed to cool to 5° and filtered. The solid filter cake was washed with toluene and recrystallized from acetic acid, then ethanol, to give 11.5 g of phenyl (4-cyano-3-ethoxy-5-isothiazolyl)carbamate, m.p. 252°-253°. The nmr spectrum was consistent with the assigned structure.

reactant | 5-amino-4-cyano-3-ethoxyisothiazole | 16.6 g | NC1=C(C(=NS1)OCC)C#N | C6H7N3OS
reactant | phenyl chloroformate | 30.7 g | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | phenyl chloroformate | 15 ml | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | phenyl (4-cyano-3-ethoxy-5-isothiazolyl)carbamate | 11.5 g | C(#N)C=1C(=NSC1NC(OC1=CC=CC=C1)=O)OCC | C13H11N3O3S
